US08278482B2
3-Methyl-N1-(2,2,2-trifluoroethyl)butane-1,3-diamine
3-Azido-3-methyl-N-(2,2,2-trifluoroethyl)butanamide (10.9 g, 48.4 mmol) was dissolved into anhydrous THF (50 mL) and added dropwise to a suspension of LAH (3.67 g, 2.0 equiv, 96.8 mmol) in anhydrous THF (200 mL) to maintain the reaction at reflux (30 min). After complete addition, the flask was fitted with a condenser and the reaction heated in a 70° C. oil bath for 8 h. The reaction mixture was cooled in an ice bath and water (4 mL) was added dropwise over 20 min. Then 15% NaOH solution (4 mL) was added dropwise over 10 min. The suspension was stirred for a further 10 min and water (4 mL) was added in one portion and the mixture stirred for 30 min to a give fine white suspension. The suspension was filtered through a pad of Celite® and washed with isopropyl alcohol (2×200 mL). Aqueous acid (6 N HCl, 10.0 mL) was added to the combined filtrate and concentrated on a rotovap to an oily residue. The residue was partitioned between DCM (100 mL) and water (100 mL). The aqueous layer was adjusted to pH ˜14 and the organic layer was separated and the aqueous phase was extracted with DCM (2×50 mL). The combined organic layers were combined and dried over anhydrous MgSO4, filtered and concentrated with a bath temperature between 10-13° C. to an orange liquid (8.84 g, quant). 1H NMR (CDCl3, 400 MHz): δ 1.15 (s, 6H), 1.55-1.62 (t, J=7.2, 2H), 2.81-2.86 (t, J=7.2, 2H) 3.15-3.22 (q, J=9.6, 2H). LRMS (ESI+) for C7H15F3N2 (184.1); Found: 185 (MH+).

reactant | 3-Azido-3-methyl-N-(2,2,2-trifluoroethyl)butanamide | 48.4 mmol, 10.9 g | N(=[N+]=[N-])C(CC(=O)NCC(F)(F)F)(C)C | C7H11F3N4O
reactant | LAH | 96.8 mmol, 3.67 g, 2.0 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 4 mL | O | H2O
reactant | NaOH | 4 mL | [OH-].[Na+]
reactant | water | 4 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-Methyl-N1-(2,2,2-trifluoroethyl)butane-1,3-diamine | CC(CCNCC(F)(F)F)(C)N | C7H15F3N2
